US04199586
F-1. 3-Amino-5-(4-pyridinyl)-2(1H)-pyridinone
F-7. 3-Amino-5-(4,6-dimethyl-2-pyridinyl)-2(1H)-pyridinone using 1,2-dihydro-2-oxo-5-(4,6-dimethyl-2-pyridinyl)-nicotinamide.

reactant | 3-Amino-5-(4,6-dimethyl-2-pyridinyl)-2(1H)-pyridinone | NC=1C(NC=C(C1)C1=NC(=CC(=C1)C)C)=O | C12H13N3O
reactant | 1,2-dihydro-2-oxo-5-(4,6-dimethyl-2-pyridinyl)-nicotinamide | O=C1C(C(=O)N)=CC(=CN1)C1=NC(=CC(=C1)C)C | C13H13N3O2
product | 3-Amino-5-(4-pyridinyl)-2(1H)-pyridinone | NC=1C(NC=C(C1)C1=CC=NC=C1)=O | C10H9N3O
